US07732456B2
(2) Preparation of 4-(4-fluorobenzyloxy)-1H-pyrimidin-2-one
n-Butyl lithium (2.6 M n-hexane solution, 7.2 mL) was added to tetrahydrofuran solution (10 mL) of 2-popenyl alcohol (1.8 mL) at −78° C., and stirred at the same temperature for 30 minutes. This reaction liquid was gradually added to tetrahydrofuran solution (20 mL) of 2-chloro-4-(4-fluorobenzyloxy)pyrimidine (4.36 g) and stirred at 60° C. for 4 hours, followed by 24 hours' reflux. Cooling the reaction liquid to room temperature, ethyl acetate was added thereto, followed by washing with water and saturated brine and drying over anhydrous magnesium sulfate. Concentrating the solvent under reduced pressure, the residue was dissolved in tetrahydrofiaan (20 mL). To the solution piperidine (2 mL) and tetrakis(triphenylphosphine)palladium (780 mg) were added and stirred at room temperature for 4 hours. The reaction liquid was added to water (100 mL)-ethyl acetate (50 mL) mixture, and the insoluble matter was recovered by filtration to provide the title compound (0.96 g, 24%).

reactant | n-Butyl lithium | 2.6 M, 7.2 mL | C(CCC)[Li]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | 2-chloro-4-(4-fluorobenzyloxy)pyrimidine | 4.36 g | ClC1=NC=CC(=N1)OCC1=CC=C(C=C1)F | C11H8ClFN2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | 4-(4-fluorobenzyloxy)-1H-pyrimidin-2-one | 0.96 g, 24% | FC1=CC=C(COC2=NC(NC=C2)=O)C=C1 | C11H9FN2O2
